US04267176
2 N Sodium hydroxide solution [solvent:water (1 part)+ethanol (4 parts)] (14.87 ml.) was added to a solution of ethyl 2-(6-formamidopyridin-2-yl)glyoxylate (6.00 g.) in ethanol (180 ml.) at room temperature and stirred at the same temperature for 20 minutes. Methoxyamine hydrochloride (2.71 g.) was added to the resultant solution, stirred at room temperature for 1.5 hours and then concentrated to a small volume under reduced pressure. The precipitates were collected by filteration washed with ethyl acetate and water, dissolved in methanol and then treated with activated charcoal. The solution was concentrated under reduced pressure and then the precipitates were collected by filtration to give 2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetic acid (3.63 g.), mp 170° to 171° C. (dec.).

reactant | Sodium hydroxide | 2 N, 14.87 ml | [OH-].[Na+]
reactant | ethyl 2-(6-formamidopyridin-2-yl)glyoxylate | 6.00 g | C(=O)NC1=CC=CC(=N1)C(C(=O)OCC)=O | C10H10N2O4
reactant | Methoxyamine hydrochloride | 2.71 g | Cl.CON
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetic acid | 3.63 g | C(=O)NC1=CC=CC(=N1)C(C(=O)O)=NOC | C9H9N3O4
